US07932398B2
In a 100 ml two-necked flask having a reflux condenser were charged 1.11 g (3.9 mmol) of 4-fluoro-3′-(3-hydroxy-3-methyl-1-butynyl)benzophenone and 165 mg (4.1 mmol) of NaOH (Kishida Chemical Co., Ltd.; 0.7 mm particles, 98%) and air in the flask was replaced by Ar gas. 20 ml of toluene was added to the mixture and the mixture was heated at 120° C. under reflux for 0.5 hour. Toluene was added to the reaction mixture and the mixture was washed with a saturated aqueous ammonium chloride solution and dried over magnesium sulfate and the solvent was removed by distillation under reduced pressure using an evaporator. The resultant crude reaction product was purified by column chromatography (hexane/AcOEt=10/1) using silica gel to obtain 0.5 g of 3-ethynyl-4′-fluorobenzophenone as yellow solid. (Yield: 53%)

reactant | 4-fluoro-3′-(3-hydroxy-3-methyl-1-butynyl)benzophenone | 3.9 mmol, 1.11 g | FC1=CC=C(C(=O)C2=CC(=CC=C2)C#CC(C)(C)O)C=C1 | C18H15FO2
reactant | NaOH | 4.1 mmol, 165 mg | [OH-].[Na+]
solvent | Toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 3-ethynyl-4′-fluorobenzophenone | 0.5 g, Yield: 53% | C(#C)C=1C=C(C(=O)C2=CC=C(C=C2)F)C=CC1 | C15H9FO
